US08071643B2
Step A. Thiobenzoic acid S-(5-tert-butoxycarbonylamino-2-oxo-cyclohexyl) ester
Thiobenzoic acid S-((1R,2R,5S)-5-tert-butoxycarbonylamino-2-hydroxy-cyclohexyl) ester+(1S,2S,5R) diastereomer (8.7 g, 24.8 mmol) from Example 34 Step A was treated with 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one (11.02 g, 26 mmol) according to the method of Example 34 Step B. After work up and chromatography (silica, toluene/ethyl acetate=6/1) of the mixture the title compound (toluene/ethyl acetate=3/1, Rf=0.43, 7.15 g, 83% yield) was obtained as a white solid.

reactant | Thiobenzoic acid S-((1R,2R,5S)-5-tert-butoxycarbonylamino-2-hydroxy-cyclohexyl) ester | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H]([C@@H](C1)SC(C1=CC=CC=C1)=O)O | C18H25NO4S
reactant | 1,1-dihydro-1,1,1-triacetoxy-1,2-benziodoxol-3(1H)-one | 26 mmol, 11.02 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | Thiobenzoic acid S-(5-tert-butoxycarbonylamino-2-oxo-cyclohexyl) ester | 7.15 g, 83% yield | C(C)(C)(C)OC(=O)NC1CCC(C(C1)SC(C1=CC=CC=C1)=O)=O | C18H23NO4S
